US04220646
A solution of phosgene (45.0 g.) in anhydrous toluene (500 cm3) and 1-propionylpiperazine (129.0 g.) are added simultaneously to anhydrous toluene (500 cm3), while the temperature is maintained at about -5° C. 1-Chlorocarbonyl-4-propionylpiperazine (92.0 g.), m.p. about 45° C., is thus obtained. After one hour's stirring at 2° C., the 1-propionylpiperazine hydrochloride formed is separated by filtration and, after evaporation of the filtrate under reduced pressure (20 mm.Hg) 1-chlorocarbonyl-4-propionyl-piperazine is obtained.

reactant | phosgene | 45.0 g | C(=O)(Cl)Cl | CCl2O
reactant | 1-propionylpiperazine | 129.0 g | C(CC)(=O)N1CCNCC1 | C7H14N2O
solvent | toluene | 500 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 500 cm3 | C1(=CC=CC=C1)C | C7H8
product | 1-Chlorocarbonyl-4-propionylpiperazine | 92.0 g | ClC(=O)N1CCN(CC1)C(CC)=O | C8H13ClN2O2
